** sch_path: /home/raiku/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/yadav/schematic/xschem/YadavVCR.sch
.subckt YadavVCR Vdd Rin Rout Vc Vss
*.PININFO Vc:I Vss:B Vdd:B Rin:I Rout:O
MM3 Vdd Rin net2 Vss sg13_hv_nmos w=0.72u l=4.14u ng=1
MM13 net1 net1 Vdd Vdd sg13_hv_pmos w=10.0u l=2.16u ng=1
MM1 net3 Rin Vss Vss sg13_hv_nmos w=0.72u l=4.14u ng=1
MM5 net1 net2 Vss Vss sg13_hv_nmos w=0.72u l=4.14u ng=1
MM2 net1 Rout Vss Vss sg13_hv_nmos w=0.72u l=4.14u ng=1
MM16 net3 net3 Vdd Vdd sg13_hv_pmos w=10.0u l=2.16u ng=1
MM7 net2 Vc Vss Vss sg13_hv_nmos w=0.72u l=4.14u ng=1
MM6 net3 net6 Vss Vss sg13_hv_nmos w=0.72u l=4.14u ng=1
MM14 net4 net1 Vdd Vdd sg13_hv_pmos w=10.0u l=2.16u ng=1
MM8 net6 Vc Vss Vss sg13_hv_nmos w=0.72u l=4.14u ng=1
MM4 Vdd Rout net6 Vss sg13_hv_nmos w=0.72u l=4.14u ng=1
MM9 net4 net4 Vss Vss sg13_hv_nmos w=0.72u l=2.16u ng=1
MM10 Rin net4 Vss Vss sg13_hv_nmos w=0.72u l=2.16u ng=1
MM17 Rin net3 Vdd Vdd sg13_hv_pmos w=10.0u l=2.16u ng=1
MM18 net5 net3 Vdd Vdd sg13_hv_pmos w=10.0u l=2.16u ng=1
MM11 net5 net5 Vss Vss sg13_hv_nmos w=0.72u l=2.16u ng=1
MM12 Rout net5 Vss Vss sg13_hv_nmos w=0.72u l=2.16u ng=1
MM15 Rout net1 Vdd Vdd sg13_hv_pmos w=10.0u l=2.16u ng=1
.ends
